US08106064B2
(3-Hydroxymethyl-phenyl)-[5-isopropyl-2,6-bis-(4-methoxy-benzyloxy)-pyrimidin-4-yl]-methanone (111):
To a stirred solution of [3-(tert-butyl-dimethyl-silanyloxymethyl)-phenyl]-[5-isopropyl-2,6-bis-(4-methoxy-benzyloxy)-pyrimidin-4-yl]-acetonitrile (5.06 g, 7.75 mmol) in anhydrous DMF (30 ml), was added 60% sodium hydride (325 mg, 8.14 mmol). After 20 min., oxygen gas was bubbled into the reaction mixture for 3 hr. The mixture was partitioned between ether and aqueous saturated ammonium chloride solution. The ether layer was taken, washed with water twice, dried with anhydrous magnesium sulfate, filtered, and evaporated in vacuo. The residue was stirred with p-toluenesulfonic acid monohydrate (133 mg, 0.7 mmol) in methanol (10 ml) for 2 hr. at room temperature. The mixture was then evaporated in vacuo and the residue was purified by silica gel column chromatography (eluent, ether: hexanes (from 1:1 to 2:1)) to afford 1.67 g (40%) of a white foam. 1H NMR (200 MHz, CDCl3) δ 1.15 (6H, d, J=6.8 Hz), 1.96 (1H, t, J=5.6 Hz), 2.82 (1H, m), 3.78 (3H, s), 3.82 (3H, s), 4.70 (2H, d, J=5.6 Hz), 5.28 (2H, s), 5.42 (2H, s), 6.78-6.98 (4H, m), 7.30-7.52 (5H, m), 7.61-7.79 (3H, m).

reactant | [3-(tert-butyl-dimethyl-silanyloxymethyl)-phenyl]-[5-isopropyl-2,6-bis-(4-methoxy-benzyloxy)-pyrimidin-4-yl]-acetonitrile | 7.75 mmol, 5.06 g | C(C)(C)(C)[SiH2]OC(C=1C=C(C=CC1)C(C#N)C1=NC(=NC(=C1C(C)C)OCC1=CC=C(C=C1)OC)OCC1=CC=C(C=C1)OC)(C)C | C38H47N3O5Si
reactant | sodium hydride | 8.14 mmol, 325 mg | [H-].[Na+]
reactant | p-toluenesulfonic acid monohydrate | 0.7 mmol, 133 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | methanol | 10 ml | CO | CH4O
solvent | DMF | 30 ml | CN(C)C=O | C3H7NO
product | (3-Hydroxymethyl-phenyl)-[5-isopropyl-2,6-bis-(4-methoxy-benzyloxy)-pyrimidin-4-yl]-methanone | 1.67 g, 40% | OCC=1C=C(C=CC1)C(=O)C1=NC(=NC(=C1C(C)C)OCC1=CC=C(C=C1)OC)OCC1=CC=C(C=C1)OC | C31H32N2O6
